US07560450B2
1-carboxymethyl-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine
Prepared by saponifying 1-methoxycarbonylmethyl-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine with 4 N potassium hydroxide solution in a mixture of tetrahydrofuran and methanol (5:1) at ambient temperature.

reactant | 1-methoxycarbonylmethyl-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | COC(=O)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C | C23H32N6O6
reactant | potassium hydroxide | 4 N | [OH-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-carboxymethyl-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-xanthine | C(=O)(O)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C | C22H30N6O6
